US09079902B2
3-(2,4-Dimethoxyphenyl)-1-Methyl-N-(1,2,4-Thiadiazol-5-yl)-1H-Indole-6-Sulfonamide
The title compound was prepared in an analogous manner to that described in Example 28 using (2,4-dimethoxyphenyl)boronic acid and 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, and the desired product, 3-(2,4-dimethoxyphenyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, was isolated as an off-white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 3.76 (s, 3H) 3.80 (s, 3H) 3.87 (s, 3H) 6.59-6.68 (m, 2 H) 7.35 (d, J=8.25 Hz, 1 H) 7.43 (dd, J=8.42, 1.43 Hz, 1 H) 7.52-7.60 (m, 1 H) 7.85 (s, 1 H) 7.94 (br. s., 1 H). m/z (ESI) 430.1 (M+H)+.

reactant | (2,4-dimethoxyphenyl)boronic acid | COC1=C(C=CC(=C1)OC)B(O)O | C8H11BO4
reactant | 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | BrC1=CN(C2=CC(=CC=C12)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C | C20H19BrN4O4S2
product | 3-(2,4-dimethoxyphenyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | COC1=C(C=CC(=C1)OC)C1=CN(C2=CC(=CC=C12)S(=O)(=O)NC1=NC=NS1)C | C19H18N4O4S2
